US09428509B2
4-(4-Cyclobutoxy-2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
To a degassed mixture of 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 1,3-dimethyl-1H-pyrazol-4-amine (1 equiv) and sodium tert-butoxide (2 equiv) in 1,4-dioxane (0.15 M) was added chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II), (0.06 equiv) and dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine (0.06 equiv). The reaction was stirred at 100° C. for 16 h. The reaction mixture was cooled to room temperature, and concentrated. The residue was purified by silica gel chromatography (0-5% MeOH in DCM) to afford the title compound (37% yield). MS (ESI) m/z 562.3 [M+1]+.

reactant | 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCC2 | C24H31ClN4O3Si
reactant | 1,3-dimethyl-1H-pyrazol-4-amine | 1 equiv | CN1N=C(C(=C1)N)C | C5H9N3
reactant | sodium tert-butoxide | 2 equiv | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.06 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | 1,4-dioxane | 0.15 M | O1CCOCC1 | C4H8O2
product | 4-(4-Cyclobutoxy-2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 37% yield | C1(CCC1)OC=1C2=C(N=C(N1)NC=1C(=NN(C1)C)C)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C | C29H39N7O3Si
